US08383644B2
(S)-2-tert-Butoxycarbonylamino-3-{(R)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester
2-tert-Butoxycarbonylamino-3-{(R)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-acrylic acid methyl ester (4.9 g) was suspended in 300 mL EtOAc. 400 mg (+)-1,2-bis((2S,5S)-2,5-diethylphospholano)benzene(cyclooctadiene)rhodium(I)trifluoromethanesulfonate in 30 mL DCM was added. The mixture was then degassed and a hydrogen balloon was added. The mixture was stirred at room temperature for 2 hours and the solvent was evaporated. The residue was purified by silica gel flash chromatography (hexanes to 8:2 hexanes/EtOAc) to give 4.8 g after drying. 1H NMR (400 MHz, CDCl3): 7.54 (d, 1H), 7.46 (d, 1H), 7.34 (m, 2H), 7.24-7.28 (m, 1H), 6.98 (m, 2H), 6.87 (d, 1H), 6.69 (d, 1H), 6.62 (m, 1H), 5.07-4.96 (m, 4H), 4.54 (m, 1H), 4.30 (m, 1H), 4.0 (m, 1H), 3.74 (s, 3H), 3.0 (m, 2H), 1.43 (s, 9H).

reactant | 2-tert-Butoxycarbonylamino-3-{(R)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-acrylic acid methyl ester | 4.9 g | COC(C(=CC1=CC2=C(O[C@@H](CO2)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)NC(=O)OC(C)(C)C)=O | C30H29Cl2NO7
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-tert-Butoxycarbonylamino-3-{(R)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester | COC([C@H](CC1=CC2=C(O[C@@H](CO2)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)NC(=O)OC(C)(C)C)=O | C30H31Cl2NO7
